US09370515B2
Preparation of 3-(5-methylbenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine
To a solution of 6-chloro-3-(5-methylbenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine (50 mg, 0.168 mmol, 1.0 equiv), xantphos (19 mg, 0.0334 mmol, 0.2 equiv), palladium acetate (4 mg, 0.0167 mmol, 0.1 equiv), and potassium carbonate (461 mg, 3.34 mmol, 20 equiv) in dioxane (5.0 mL) was added 3,4-dimethoxyaniline (28 mg, 0.167 mmol, 1.1 equiv) and heated to 110° C. for 2 h. Purification by column chromatography using 2% methanol in dichloromethane elution gave 42 mg, 0.152 mmol of the yellow solid, 60%.

reactant | 6-chloro-3-(5-methylbenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine | 0.168 mmol, 50 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC1=C(S2)C=CC(=C1)C | C15H10ClN3S
reactant | xantphos | 0.0334 mmol, 19 mg, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium carbonate | 3.34 mmol, 461 mg, 20 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyaniline | 0.167 mmol, 28 mg, 1.1 equiv | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0167 mmol, 4 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(5-methylbenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine | 0.152 mmol, 42 mg | CC1=CC2=C(SC(=C2)C2=CN=C3N2N=C(C=C3)NC3=CC(=C(C=C3)OC)OC)C=C1 | C23H20N4O2S
